US09403845B2
To a suspension of MeONH2.HCl (272 mg, 3.26 mmol) in pyridine (5 ml) was added 6-bromo-1,3,3-trimethyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-one (130 mg, 0.41 mmol) and stirring was continued for 2 days at 100° C. The mixture was cooled to ambient temperature then concentrated under reduced pressure followed by addition of water and ethyl acetate then the phases were separated. The aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography eluting with ethyl acetate/heptane, gradient, afforded 6-bromo-N-methoxy-1,3,3-trimethyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-imine as a yellow solid as a 5/1 mixture of oxime isomers.

reactant | MeONH2.HCl | 3.26 mmol, 272 mg | CON.Cl
reactant | 6-bromo-1,3,3-trimethyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-one | 0.41 mmol, 130 mg | BrC=1C=CC=2N(S(C(C(C2N1)=O)(C)C)(=O)=O)C | C10H11BrN2O3S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-bromo-N-methoxy-1,3,3-trimethyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-imine | BrC=1C=CC=2N(S(C(C(C2N1)=NOC)(C)C)(=O)=O)C | C11H14BrN3O3S
